### PR TITLE
fix: remove use of `native_decide` in the HTTP library

### PR DESCRIPTION
**Pull request by algebraic-dev**
This PR removes the use of `native_decide` in the HTTP library and adds proofs to remove the `panic!`.

### CODE REVIEW

File: src/Std/Internal/Http/Data/Chunk.lean [hunk 1]
```diff
@@ -87,13 +87,13 @@ def ofString! (s : String) : ExtensionName :=
...
-A proposition asserting that `s` is a valid extension value, meaning it can be correctly encoded and
-decoded as either a token or a quoted-string.
+A proposition asserting that `s` is a valid extension value, meaning every character passes
+`Char.quotedStringChar` (i.e. is `qdtext` or a valid `quoted-pair` payload).
 
 Reference: https://httpwg.org/specs/rfc9112.html#chunked.extension
 -/
 abbrev IsValidExtensionValue (s : String) : Prop :=
-  (quoteHttpString? s).isSome
+  s.toList.attach.all (Char.quotedStringChar ·.val)
```
Comment (nomeata) [inline src/Std/Internal/Http/Data/Chunk.lean]: What is the purpose of `.attach` when you directly project the value out again?

Comment (algebraic-dev) [reply src/Std/Internal/Http/Data/Chunk.lean]: I was just making the quote proof easier, but I found a cleaner way. Fixed.

File: src/Std/Internal/Http/Internal/Char.lean [hunk 2]
```diff
@@ -97,6 +100,24 @@ quoted-string body character class:
...
+  grind [→ Char.le_def.mp, Char.lt_def.mpr, vchar]
+
+private theorem not_quotedStringChar_ofNat_aux :
+    ∀ c : Nat, c < 128 → ¬(qdtext (Char.ofNat c)) ∧ ¬((Char.ofNat c = '\"') ∨ (Char.ofNat c = '\\')) →
+    ¬(quotedStringChar (Char.ofNat c)) := by
+  decide
+
+theorem not_quotedStringChar_of_not_qdtext_not_dquote_backslash :
+    ∀ c : Char, c < '\x80' → ¬(qdtext (c)) ∧ ¬((c = '\"') || (c = '\\')) →
+    ¬(quotedStringChar (c)) := by
```
Comment (TwoFX) [inline src/Std/Internal/Http/Internal/Char.lean]:
```suggestion
    ¬(quotedStringChar c) := by
```

File: src/Std/Internal/Http/Internal/Char.lean [hunk 3]
```diff
@@ -97,6 +100,24 @@ quoted-string body character class:
 def quotedStringChar (c : Char) : Bool :=
   qdtext c || quotedPairChar c
 
+theorem quotedStringChar_lt_0x80 : quotedStringChar c → c < '\x80' := by
+  simp [quotedStringChar, qdtext, quotedPairChar]
+  split <;> (subst_vars; simp)
```
Comment (TwoFX) [inline src/Std/Internal/Http/Internal/Char.lean]: Squeeze simps if possible. I guess you can't just get `grind` to prove the whole thing?

**Review by TwoFX — APPROVED** [review]
Looks good, just some minor nitpicks.
